US07589206B2
h) N-(3-Chlorophenyl)-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine
A solution of 4-[(3-chlorophenyl)amino]-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid (25.0 g) in dry dimethylformamide (300 ml), was treated with 1-hydroxybenzotriazole (14.00 g), N-ethylmorpholine (42 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (19.03 g) and morpholine (14.4 ml) at 23° C. under argon with stirring. After 24 h, the solution was evaporated in vacuo and treated with aqueous saturated sodium carbonate (200 ml) and water (300 ml). The mixture was extracted with ethyl acetate (5×200 ml), and the combined, dried (Na2SO4) organic extracts were evaporated in vacuo. The residue was purified by column chromatography on a Biotage silica column (800 g) eluting with ethyl acetate-hexane (1:1 to 7:3) to give the free base of the title compound (26.9 g). A portion of the free base (21.9 g) in methanol (250 ml) was treated with 1.0M hydrochloric acid in diethyl ether to pH1 and then evaporated in vacuo. Trituration of the residue with ether followed by filtration yielded the title compound (22.75 g).

reactant | 4-[(3-chlorophenyl)amino]-1-methyl-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid | 25.0 g | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2C)C(=O)O | C15H12ClN3O2
reactant | 1-hydroxybenzotriazole | 14.00 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-ethylmorpholine | 42 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 19.03 g | Cl.C(C)N=C=NCCCN(C)C
reactant | morpholine | 14.4 ml | N1CCOCC1 | C4H9NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | N-(3-Chlorophenyl)-1-methyl-7-(4-morpholinylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-4-amine | 26.9 g | ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | C19H19ClN4O2
